US04616015
A solution of 6-[4-(4-chlorobutyrylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (3.879 g) in DMF (38 ml) was added dropwise to a stirred mixture of sodium hydride (1.055 g) in DMF (13 ml) under ice cooling and stirring was continued for 30 minutes. The mixture was evaporated in vacuo after addition of acetic acid (1.85 ml) thereto. Water was added to the residue and the resultant precipitates were collected by filtration and recrystallized 70% aqueous ethanol to give 6-[4-(2oxo-1-pyrrolidinyl)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.77 g).

reactant | 6-[4-(4-chlorobutyrylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 3.879 g | ClCCCC(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H17ClN4O2
reactant | sodium hydride | 1.055 g | [H-].[Na+]
solvent | DMF | 38 ml | CN(C)C=O | C3H7NO
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
product | 6-[4-(2oxo-1-pyrrolidinyl)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.77 g | O=C1N(CCC1)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H16N4O2
